* C:\Users\benja\Downloads\2024\TCII\TS5\circuito simulación desnormalizado.asc
XU1 N002 N003 N002 opamp Aol=100K GBW=10Meg
R1 N001 Vi 1
R2 N001 N003 1
C1 N003 0 56.937115µ
C2 N002 N001 108.760239µ
V1 Vi 0 AC 1
R3 Vo N002 1
C3 Vo 0 86.125769µ
.ac dec 1000 10 100k
.lib opamp.sub
.backanno
.end
